US08604029B2
A solution of 1-bromo-3-methyl-3-(3-nitro-phenyl)-butan-2-one (2.28 g, 8.0 mmol), isobutyramidine hydrochloride (3.58 g, 23.7 mmol) and 1,1,3,3-tetramethylguanidine (2.4 mL, 19.1 mmol) in DMF (10 mL) was heated at reflux for 24 h. The mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over sodium sulfate and concentrated to afford 2-isopropyl-4-[1-methyl-1-(3-nitro-phenyl)-ethyl]-1H-imidazole (0.65 g, 30%) as a cream-coloured solid.

reactant | 1-bromo-3-methyl-3-(3-nitro-phenyl)-butan-2-one | 8.0 mmol, 2.28 g | BrCC(C(C)(C1=CC(=CC=C1)[N+](=O)[O-])C)=O | C11H12BrNO3
reactant | isobutyramidine hydrochloride | 23.7 mmol, 3.58 g | Cl.C(C(C)C)(=N)N
reactant | 1,1,3,3-tetramethylguanidine | 19.1 mmol, 2.4 mL | CN(C(=N)N(C)C)C | C5H13N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-isopropyl-4-[1-methyl-1-(3-nitro-phenyl)-ethyl]-1H-imidazole | 0.65 g, 30% | C(C)(C)C=1NC=C(N1)C(C)(C1=CC(=CC=C1)[N+](=O)[O-])C | C15H19N3O2
